US05439874
0.4 g (0.01 mol) of sodium borohydride is added at room temperature to 1.8 g (0.01 mol) of ethyl 2-keto-5-methyl-bicyclo[3.1.0]hexane-1-carboxylate, dissolved in 20 ml of ethanol, and the mixture is then subsequently stirred at room temperature for about 12 hours. The reaction mixture is poured into water. The residue is extracted with diethyl ether, concentration is effected, and the crude product is chromatographed on silica gel with hexane/ethyl acetate as eluent. 1.5 g (82% of theory ) of ethyl 2-hydroxy-5-methyl-bicyclo[3.1.0]hexane-1-carboxylate are obtained in the form of an oil.

reactant | sodium borohydride | 0.01 mol, 0.4 g | [BH4-].[Na+]
reactant | ethyl 2-keto-5-methyl-bicyclo[3.1.0]hexane-1-carboxylate | 0.01 mol | O=C1C2(CC2(CC1)C)C(=O)OCC | C10H14O3
reactant | water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | ethyl 2-hydroxy-5-methyl-bicyclo[3.1.0]hexane-1-carboxylate | 1.5 g, 82% | OC1C2(CC2(CC1)C)C(=O)OCC | C10H16O3
